US06927214B1
1,2-Diamino-4,5-dichlorobenzene (1.63 g, 9.22 mmol), dissolved in a small amount of DMF, as added dropwise to a stirred solution of 5-chloro-2-oxo-pentanoic acid ethyl ester (1.50 g, 9.22 mmol) [J. H. Hoare, P. Yates J. Org. Chem. 1983, 4, 3333] in a mixture of DMF:glacial acetic acid 7:3 (5 ml). After stirring for 3 days at room temperature, the solvent was removed in vacuo leaving a dark coloured solid. Ethyl acetate was added and the insoluble material was removed by filtration over a short pad of silica. The filtrate was evaporated in vacuo, and the residue was purified by flash column chromatography (ethyl acetate:heptane 25:75), to yield 25% of 6,7-dichloro-3-(3-chloropropyl)-1H-quinoxalin-2-one as a yellow solid.

reactant | 1,2-Diamino-4,5-dichlorobenzene | 9.22 mmol, 1.63 g | NC1=C(C=C(C(=C1)Cl)Cl)N | C6H6Cl2N2
reactant | 5-chloro-2-oxo-pentanoic acid ethyl ester | 9.22 mmol, 1.50 g | C(C)OC(C(CCCCl)=O)=O | C7H11ClO3
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 6,7-dichloro-3-(3-chloropropyl)-1H-quinoxalin-2-one | 25% | ClC=1C=C2N=C(C(NC2=CC1Cl)=O)CCCCl | C11H9Cl3N2O
